US07098226B2
3-(4-Pyridyl)propyl N-[2-(1-adamantyl)ethyl]-N-pentylcarbamate (Compound No. 5-1)
4-Pyridinepropanol (528 mg, 3.85 mmol) was dissolved in acetonitrile (20 ml) at room temperature, and then triethylamine (1.61 ml, 11.6 mmol) was added to the solution. Further, N,N-disuccinimidyl carbonate (1.48 g, 5.87 mmol) was added to the mixture, and the whole was stirred for 2.5 hours. The reaction mixture was concentrated under reduced pressure, and ethyl acetate (100 ml) and a saturated aqueous sodium hydrogencarbonate solution (50 ml) were added to the residue. Layers were separated, and the obtained organic layer was washed with a saturated aqueous sodium chloride solution (50 ml). The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was dried under reduced pressure and dissolved in anhydrous methylene chloride (10 ml). Then, a solution of 2-(1-adamantyl)-N-pentylethylamine hydrochloride (Intermediate No. 1-1) (1.32 g, 4.62 mmol) and triethylamine (0.80 ml, 5.7 mmol) in methylene chloride (90 ml) was added thereto, and the mixture was stirred for 1.5 hours. The reaction mixture was washed with a saturated aqueous sodium hydrogencarbonate solution (50 ml) and a saturated aqueous sodium chloride solution (50 ml) successively, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give 1.54 g (97%) of the titled compound as an oily matter.

reactant | 4-Pyridinepropanol | 3.85 mmol, 528 mg | N1=CC=C(C=C1)CCCO | C8H11NO
reactant | triethylamine | 11.6 mmol, 1.61 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-disuccinimidyl carbonate | 5.87 mmol, 1.48 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 2-(1-adamantyl)-N-pentylethylamine hydrochloride | 4.62 mmol, 1.32 g | Cl.C12(CC3CC(CC(C1)C3)C2)CCNCCCCC
reactant | triethylamine | 5.7 mmol, 0.80 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-Pyridyl)propyl N-[2-(1-adamantyl)ethyl]-N-pentylcarbamate | 1.54 g, 97% | C12(CC3CC(CC(C1)C3)C2)CCN(C(OCCCC2=CC=NC=C2)=O)CCCCC | C26H40N2O2
